### PR TITLE
[Merged by Bors] - feat: `TopModuleCat` is a `CategoryWithHomology`

### PR DESCRIPTION
**Pull request by erdOne**
Coauthored-by: Richard Hill

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Topology/Homology.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+-/
+import Mathlib.Algebra.Category.ModuleCat.Abelian
+import Mathlib.Algebra.Category.ModuleCat.Topology.Basic
+import Mathlib.Algebra.Homology.ShortComplex.Abelian
+import Mathlib.Algebra.Homology.ShortComplex.PreservesHomology
+
+/-!
+
+# `TopModuleCat` is a `CategoryWithHomology`
+
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Homology.lean:14]: Could you add a comment saying that despite `TopModuleCat` not being `Abelian` in general, it has this property. (I did not expect we would have any instance of `CategoryWithHomology` outside of abelian categories!) (Also, would it makes sense to say that the key-ingredient in the proof is essentially that the two obvious topologies on a subquotient are the same? If so, it would be nice to add such a comment somewhere in this file.)

File: Mathlib/Algebra/Category/ModuleCat/Topology/Homology.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+instance : Epi (cokerπ φ) := ConcreteCategory.epi_of_surjective (cokerπ φ) (cokerπ_surjective φ)
+
+@[simp] lemma comp_cokerπ : φ ≫ cokerπ φ = 0 := by
+  ext m
+  change Submodule.mkQ _ (φ m) = 0
+  simp
+
+/-- `TopModuleCat.coker` is indeed the cokernel in `TopModuleCat R`. -/
+def isColimit_coker : IsColimit (CokernelCofork.ofπ (cokerπ φ) (comp_cokerπ φ)) :=
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Topology/Homology.lean:77]:
```suggestion
def isColimitCoker : IsColimit (CokernelCofork.ofπ (cokerπ φ) (comp_cokerπ φ)) :=
```

**Comment by joelriou** [comment]
Thanks!

bors merge
